* z:\home\ludwigcron\Projects\reflow\tests\analog\ltspice\ota\tc_gain.asc
XX1 VDDA1V8 0 N001 N002 Voutp Voutn ping-pong-ota
V1 VDDA1V8 0 {VDDA}
V2 Vind 0 PULSE({-Vmax} {Vmax} 0 1n 1n 9n 20n)
C1 0 Voutp {Cload}
C2 0 Voutn {Cload}
XX2 ind Vincm N001 N002 diff2se
V3 Vincm 0 {Vincm}
E1 Voutd 0 Voutp Voutn 1
E2 ind 0 Vind Voutd 1

* block symbol definitions
.subckt ping-pong-ota VDDA1V8 VSSA1V8 Inp Inn Outp Outn
M1 N007 biasn VSSA1V8 VSSA1V8 TSMC180nmN l=540n w=1u m=8
M2 biasn biasn VSSA1V8 VSSA1V8 TSMC180nmN l=540n w=1u
M3 N002 Inn N003 N003 TSMC180nmN l=180n w=1u m=16
M4 N001 Inp N003 N003 TSMC180nmN l=180n w=1u m=16
I1 VDDA1V8 biasn 16µ
M5 Outn V1p N004 N004 TSMC180nmN l=180n w=1u m=32
M6 Outp V1n N004 N004 TSMC180nmN l=180n w=1u m=32
M7 N004 biasn VSSA1V8 VSSA1V8 TSMC180nmN l=540n w=1u m=32
M8 VDDA1V8 biasp1cm N002 VDDA1V8 TSMC180nmP l=540n w=1u m=4
M9 VDDA1V8 biasp1cm N001 VDDA1V8 TSMC180nmP l=540n w=1u m=4
M12 VDDA1V8 biasp biasp VDDA1V8 TSMC180nmP l=540n w=1u m=1
I2 biasp2 VSSA1V8 16µ
M10 N006 biasn VSSA1V8 VSSA1V8 TSMC180nmN l=540n w=1u m=2
M11 V1p biasn N006 N006 TSMC180nmN l=540n w=1u m=2
M13 N005 biasn VSSA1V8 VSSA1V8 TSMC180nmN l=540n w=1u m=2
M14 V1n biasn N005 N005 TSMC180nmN l=540n w=1u m=2
M15 N001 biasp2 V1n N001 TSMC180nmP l=360n w=1u m=5
M16 N002 biasp2 V1p N002 TSMC180nmP l=360n w=1u m=5
M17 biasp biasp2 biasp2 biasp TSMC180nmP l=540n w=1u m=1
M18 N003 biasn N007 N007 TSMC180nmN l=540n w=1u m=8
M19 VDDA1V8 biaspcm Outp VDDA1V8 TSMC180nmP l=540n w=1u m=16
M20 VDDA1V8 biaspcm Outn VDDA1V8 TSMC180nmP l=540n w=1u m=16
E1 N008 V1n V1p 0 1
E2 N009 Outn Outp 0 1
E3 biaspcm biasp N010 outd -1
R1 VDDA1V8 N010 10k
R2 N010 VSSA1V8 10k
E4 biasp1cm biasp N011 v1d -1
R3 VDDA1V8 N011 10k
R4 N011 VSSA1V8 10k
E5 v1d 0 N008 0 0.5
E6 outd 0 N009 0 0.5
C1 Outn V1p {Cc}
C2 Outp V1n {Cc}
.lib ./tsmc180nmcmos.lib
.param Cc 150f
.ends ping-pong-ota

.subckt diff2se vind vincm voutp voutn
E1 voutp vincm vind 0 0.5
E2 voutn vincm vind 0 -0.5
.ends diff2se

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\ludwigcron\My Documents\LTspiceXVII\lib\cmp\standard.mos
.param Cload 500f
.param VDDA 1.8
.param Vincm {VDDA/2}
.tran 0 4u 3.9u
* Parameters
* Stimuli
* DUT
.param Vmax 0.5
.backanno
.end
